US06720346B2
The starting material (R)-3,N1,N1-trimethyl-butane-1,2-diamine was prepared in a route similar to that in Example A45 from N-tert-butoxycarbonyl D-valine and dimethylamine and used without further purification.

reactant | N-tert-butoxycarbonyl D-valine | C(C)(C)(C)OC(=O)N[C@H](C(C)C)C(=O)O | C10H19NO4
reactant | dimethylamine | CNC | C2H7N
product | (R)-3,N1,N1-trimethyl-butane-1,2-diamine | CC([C@H](CN(C)C)N)C | C7H18N2
